US06362177B1
A solution of (R)-1-(4-chlorobenzyl)-3-(glycylamino)pyrrolidine (5.0 g, 18.7 mmol) in dichloromethane (100 mL) was treated with Et3N (2.9 mL, 20.5 mmol), 2-(tert-butoxycarbonylamino)-5-(trifluoromethyl)benzoic acid (6.27 g, 20.5 mmol), EDCI (3.9 g, 20.5 mmol) and HOBt (2.8 g, 20.5 mmol). The reaction mixture was stirred at room temperature overnight. To the reaction mixture was added 2 N aqueous NaOH solution (80 mL) and the mixture was extracted with dichloromethane. The extract was dried over anhydrous Na2SO4, filtered, and evaporated. Column chromatography (SiO2, hexane/ethyl acetate=1/1-1/4) afforded (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4-chlorobenzyl)pyrrolidine (9.41 g, 91%) as a white amorphous solid: ESI/MS m/e 555.2 (M++H, C26H30ClF3N4O4).

reactant | (R)-1-(4-chlorobenzyl)-3-(glycylamino)pyrrolidine | 18.7 mmol, 5.0 g | ClC1=CC=C(CN2C[C@@H](CC2)NC(CN)=O)C=C1 | C13H18ClN3O
reactant | Et3N | 20.5 mmol, 2.9 mL | CCN(CC)CC | C6H15N
reactant | 2-(tert-butoxycarbonylamino)-5-(trifluoromethyl)benzoic acid | 20.5 mmol, 6.27 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C13H14F3NO4
reactant | EDCI | 20.5 mmol, 3.9 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 20.5 mmol, 2.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaOH | 2 N, 80 mL | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4-chlorobenzyl)pyrrolidine | 9.41 g, 91% | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=CC=C(C=C2)Cl)C=C(C=C1)C(F)(F)F | C26H30ClF3N4O4
